Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Ritalin / Desipramine
 
Attending: ___.
 
Chief Complaint:
Epigastric pain
 
Major Surgical or Invasive Procedure:
Laparoscopic Cholecystectomy

 
History of Present Illness:
Mr ___ is a ___ year old man who presents complaining of 
epigastric pain since ___ after eating dinner.  Pain not 
associated with vomiting, but did have nausea.  Burning pain, 
___, radiating to RUQ.  Pain lasted all night and he was not 
able to sleep.  Denies fevers or chills, last BM this AM, normal
no diarrhea or blood.  Had similar pain a few nights ago after 
eating, only lasted a few hours.  No chest pain or SOB, no 
lightheadedness.

This patient had been in the hospital over the weekend but 
requested discharge to participate in ___ services and 
was therefore brought back in electively this morning for a 
laparoscopic cholecystectomy.

 
Past Medical History:
PMH:
1. chronic fatigue
2. anxiety
3. acoustic neuroma
4. HTN
5. OSA
6. MVC trauma with CVA and head and neck injury on disability
7. Hypercholesterolemia
8. PUD and GERD, esophagitis
9. Hypothyroidism
10. Psychotic episode from Ritalin

PSH:
1. Hemorrhoidectomy
2. Finger surgeries

 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
(On Admission)
PE:
VS: T97.8  48  157/100  18  99%RA 
Gen: pleasant man in NAD, A+O x 3
HEENT: no scleral icterus
CV: RRR
Lungs: CTAB
ABD: soft, obese, ND, tender RUQ with ___, +focal 
guarding,
no rebound. guaiac neg
EXT: no c/c/e

 
Pertinent Results:
___ 07:40AM BLOOD WBC-5.9 RBC-4.47* Hgb-13.2* Hct-39.3* 
MCV-88 MCH-29.5 MCHC-33.6 RDW-13.6 Plt ___
___ 12:24PM BLOOD Hct-37.4*
___ 09:15AM BLOOD Hct-37.9*
___ 07:40AM BLOOD Glucose-98 UreaN-13 Creat-1.2 Na-140 
K-4.2 Cl-104 HCO3-27 AnGap-13
___ 07:40AM BLOOD ALT-47* AST-37 AlkPhos-79 TotBili-0.6
___ 07:40AM BLOOD Calcium-8.8 Phos-3.1 Mg-2.2
 
Brief Hospital Course:
Mr. ___ initially presented to the ___ ED on ___ with 
findings concerning for cholecystitis, however, the patient 
requested discharge so that he could participate in the ___ 
___. He returned to ___ on ___ an underwent an 
uncomplicated Laparoscopic Cholecystectomy. He was admitted 
overnight for observation. Post-operatively, Mr. ___ did well. 
His pain was well controlled with PO pain medication and his 
diet was advanced to regular without a problem. He was 
dishcharged to home in stable condition on POD #1.
 
Medications on Admission:
ALBUTEROL 90 mcg ___ puffs q4-6 hrs prn wheezing  
CITALOPRAM 40 mg every morning  
LEVOTHYROXINE 150 mcg daily  
LISINOPRIL 40 mg daily  
OMEPRAZOLE 40 mg daily  
MELATONIN 3 mg before sleep  
MULTIVITAMIN  
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
2. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q6H (every 6 hours) as needed for SOB.  
3. Levothyroxine 75 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:
- Fever >100.4
- Chest pain
- Shortness of breath
- Nausea/Vomiting with inability to toerate food
- Worsening abdominal pain not relieved by pain medication
- Bleeding or redness around incision
- Drainage or bleeding from incision site
- Any further concerns that you may have

* Do not drive while taking narcotic medication
* You have steri-strips over your incision, let these fall off 
on
their own.
* You may shower, but do not scrub over incision
 
Followup Instructions:
___